US07166599B2
c) 3-(tert.butyloxycarbonylaminomethyl)-4-chloro-aniline
Prepared from 3-(tert.butyloxycarbonylaminomethyl)-4-chloro-nitrobenzene by hydrogenation in methanol at ambient temperature in the presence of platinum on charcoal, melting point: 75–77° C.

reactant | 3-(tert.butyloxycarbonylaminomethyl)-4-chloro-nitrobenzene | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1Cl)[N+](=O)[O-] | C12H15ClN2O4
solvent | methanol | CO | CH4O
catalyst | platinum on charcoal | [Pt] | Pt
product | 3-(tert.butyloxycarbonylaminomethyl)-4-chloro-aniline | C(C)(C)(C)OC(=O)NCC=1C=C(N)C=CC1Cl | C12H17ClN2O2
